US07777047B2
N-(2-{5-[(4-acetylpiperazin-1-yl)methyl]-1,3-thiazol-2-yl}-4-chloro-1H-indol-7-yl)-N-methylthiophene-2-sulfonamide
To a mixture of N-{4-chloro-2-[5-(hydroxymethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide (0.26 g) and tetrahydrofuran (10 ml) was added thionyl chloride (0.08 ml) at 0° C., and the mixture was stirred overnight at room temperature. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. A mixture of the obtained residue, 1-acetylpiperazine (0.15 g), triethylamine (0.17 ml) and N,N-dimethylformamide (10 ml) was stirred at room temperature for 3 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The residue was subjected to basic silica gel column chromatography to give the title compound (0.08 g, yield 25%) as colorless crystals from a fraction eluted with ethyl acetate. melting point 224-225° C.

reactant | N-{4-chloro-2-[5-(hydroxymethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide | 0.26 g | ClC1=C2C=C(NC2=C(C=C1)N(S(=O)(=O)C=1SC=CC1)C)C=1SC(=CN1)CO | C17H14ClN3O3S3
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | thionyl chloride | 0.08 ml | S(=O)(Cl)Cl | Cl2OS
reactant | Water | O | H2O
product | N-(2-{5-[(4-acetylpiperazin-1-yl)methyl]-1,3-thiazol-2-yl}-4-chloro-1H-indol-7-yl)-N-methylthiophene-2-sulfonamide | 0.08 g, yield 25% | C(C)(=O)N1CCN(CC1)CC1=CN=C(S1)C=1NC2=C(C=CC(=C2C1)Cl)N(S(=O)(=O)C=1SC=CC1)C | C23H24ClN5O3S3
